US07179823B1
Lithium aluminium hydride (2.50 g) was added to a solution of ethyl 1-benzyl-5-phenyl-1H-pyrazole-4-carboxylate (20.2 g) in tetrahydrofuran (300 ml) at 0° C., and the mixture was stirred at room temperature for one hour. Sodium sulfate decahydrate (21.23 g) and hexane (100 ml) were added to the reaction mixture, and the mixture was stirred at room temperature for one hour. After the precipitate was removed by filtration, the filtrate was concentrated. The residue was subjected to silica gel column chromatography, and (1-benzyl-5-phenyl-1H-pyrazol-4-yl)methanol (17.4 g, yield: 100%) was obtained as a colorless oily substance from the fraction eluted with ethyl acetate-hexane (1:1, volume ratio). NMR(CDCl3) δ: 4.46(2H, s), 5.25(2H, s), 6.99–7.04(2H, m), 7.23–7.32(5H, m), 7.41–7.45(3H, m), 7.69(1H, s).

reactant | Lithium aluminium hydride | 2.50 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 1-benzyl-5-phenyl-1H-pyrazole-4-carboxylate | 20.2 g | C(C1=CC=CC=C1)N1N=CC(=C1C1=CC=CC=C1)C(=O)OCC | C19H18N2O2
reactant | Sodium sulfate decahydrate | 21.23 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | hexane | 100 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | (1-benzyl-5-phenyl-1H-pyrazol-4-yl)methanol | 17.4 g, yield: 100% | C(C1=CC=CC=C1)N1N=CC(=C1C1=CC=CC=C1)CO | C17H16N2O
